US08071650B2
Synthesis of 1-(4-t-butylbenzyl)-3-(2-pyridinyl)thiourea (16-46)
2-aminopyridine (86 mg) was dissolved in acetonitrile (10 ml) and to the solution were added 4-t-butylbenzylisothiocyanate (190 mg) and triethylamine (140 μl), followed by refluxing for 27 hours. The resulting mixture was extracted with water and dichloromethane, dried, concentrated under reduced pressure, and then crystallized (dichloromethane/petroleum ether) to yield the compound (90 mg, 33%) as a white solid.

reactant | 2-aminopyridine | 86 mg | NC1=NC=CC=C1 | C5H6N2
reactant | 4-t-butylbenzylisothiocyanate | 190 mg | C(C)(C)(C)C1=CC=C(CN=C=S)C=C1 | C12H15NS
reactant | triethylamine | 140 μl | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-(4-t-butylbenzyl)-3-(2-pyridinyl)thiourea | 90 mg, 33% | C(C)(C)(C)C1=CC=C(CNC(=S)NC2=NC=CC=C2)C=C1 | C17H21N3S
